US05190952
A solution of 1.73 g of 2,3-dimethyl-4-quinolone in 25 ml of acetic anhydride was stirred at 130° C. for 8 hours. The solution was evaporated to remove the solvent under reduced pressure, and 30 ml of chloroform was added to the solution. The mixture was washed with an aqueous saturated sodium hydrogen carbonate solution and water and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the crude product thus obtained was purified by silica gel column chromatography (Wako Gel C-200) to give 1.87 g of 4-acetoxy-2,3-dimethylquinoline.

reactant | 2,3-dimethyl-4-quinolone | 1.73 g | CC1=NC2=CC=CC=C2C(C1C)=O | C11H11NO
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-acetoxy-2,3-dimethylquinoline | 1.87 g | C(C)(=O)OC1=C(C(=NC2=CC=CC=C12)C)C | C13H13NO2
